US06599902B2
Synthesis of 3-[1-[4-(4-Cyclopropyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (178 mg) was condensed with 4-(4-cyclopropyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (125 mg) to give the titled compound.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 178 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-(4-cyclopropyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 125 mg | C1(CC1)N1CCN(CC1)CC=1C(=C(NC1C)C=O)C | C15H23N3O
product | 3-[1-[4-(4-Cyclopropyl-piperazin-1-ylmethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C1(CC1)N1CCN(CC1)CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C30H32Cl2N4O3S
